US06087380
h) 1-Methyl-2-methoxymethyl-thieno[2.3-d]imidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide
A suspension of 0.50 g (2.2 mmol) of 1-methyl-2-methoxymethyl-thieno[2.3-d]imidazol-5-yl-carboxylic acid in 20 ml of methylene chloride was mixed with 2.0 ml (3.2 g, 27 mmol) of thionyl chloride and refluxed for 60 minutes, during which time the solid gradually dissolved. After distillation of the liquid components the crude product was taken up twice more in methylene chloride. After the solvent had been eliminated once more the crude acid chloride was taken up in 20 ml of tetrahydrofuran and added dropwise to a mixture of 0.42 g (2.3 mmol) of N-(2-methoxycarbonylethyl)aniline and 0.92 ml (6.6 mmol) of triethylamine in 30 ml of tetrahydrofuran. After 16 hours' stirring at 50° C. the solvent was eliminated and the crude product obtained was purified by chromatography (silica gel; methylene chloride/ethanol=100:1). Yield: 0.66 g (77% of theory), Rf value: 0.47 (silica gel; methylene chloride/ethanol=19:1)

reactant | 1-methyl-2-methoxymethyl-thieno[2.3-d]imidazol-5-yl-carboxylic acid | 2.2 mmol, 0.50 g | CN1C(=NC2=C1C=C(S2)C(=O)O)COC | C9H10N2O3S
reactant | thionyl chloride | 27 mmol, 2.0 ml, 3.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | N-(2-methoxycarbonylethyl)aniline | 2.3 mmol, 0.42 g | COC(=O)CCNC1=CC=CC=C1 | C10H13NO2
reactant | triethylamine | 6.6 mmol, 0.92 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-Methyl-2-methoxymethyl-thieno[2.3-d]imidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N=C(N2C)COC)S1)CCC(=O)OC | C19H21N3O4S
